US06472393B1
2-Hydroxy-4-nitro-benzonitrile (11.2 g, 68 mmole) was dissolved in DMF (200 ml). Potassium carbonate (11 g. 80 mmole) and benzyl bromide (9 ml, 75 mmole) were added. The reaction was stirred at room temperature overnight. The DMF was removed in vacuo and the residue taken up in ethyl acetate and water. The organic layer was separated, washed with 1 N NaOH, then with water, and dried over sodium sulfate. The crude product (5 g) was dissolved in ethyl acetate (75 ml) and added to a flask containing 5% Pt/C (500 mg). The reaction was placed under a hydrogen atmosphere (balloon) and stirred vigorously for several hours until the reaction was done (TLC). The catalyst was filtered off and the solvent removed. The product was purified by flash chromatography to yield 4.12 g of 4-amino, 2-benzyloxybenzonitrile.

reactant | 2-Hydroxy-4-nitro-benzonitrile | 68 mmole, 11.2 g | OC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C7H4N2O3
reactant | Potassium carbonate | 80 mmole, 11 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 75 mmole, 9 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-benzyloxybenzonitrile | C(C1=CC=CC=C1)OC1=C(C#N)C=CC=C1 | C14H11NO
